US08198448B2
(R)-6-(1-(8-fluoro-6-(3-methylisoxazol-5-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)ethyl)-1,6-naphthyridin-5(6H)-one (2R)—N′-(3-fluoro-5-(3-methylisoxazol-5-yl)pyridin-2-yl)-2-(5-oxo-1,6-naphthyridin-6(5H)-yl)propanehydrazide (1.9 g, 4.7 mmol) and triphenylphosphine (1.8 g, 7.0 mmol) were taken up in THF (47 ml, 4.7 mmol). TMS-azide (0.93 ml, 7.0 mmol) was added, followed by slow addition of DEAD (1.1 ml, 7.0 mmol) and the reaction was stirred at room temperature for 50 minutes (monitored temperature so as not too exceed 30-40° C.) until reaction was complete. The reaction mixture was concentrated down, removing approximately ½ volume of THF. The material was then redissolved in EtOAc (˜100 mL), and 2 M HCl (˜30 mL) was added. The mixture was shaken vigorously, and the aqueous layer (with product) was set aside. The EtOAc layer was extracted ×2 with HCl (30 mL) and all of the aqueous layers were combined. The aqueous layer was cooled to 0° C., and to it was added 6 M NaOH dropwise until pH was 7-8 (desired product crashed out as an off-white solid). The solid was filtered over vacuum to remove desired product from water. The solid was then dissolved through the frit into a new flask with DCM/MeOH, and dried over NaSO4 (to further dry). The product was then recrystallized from EtOH with heat, sonication and then cooling or scratching to promote rapid crystallization. (R)-6-(1-(8-fluoro-6-(3-methylisoxazol-5-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)ethyl)-1,6-naphthyridin-5(6H)-one (1.5 g, 60-80% yield) was isolated as a white solid with >95% ee by HPLC (conditions: 50/50 EtOH:Heptane, ChiralPak® AD-H, 1.0 mL/min, 20 min, 4.6×150 mm column, tr 6.61 min). On the basis of previous crystallographic data and potency recorded for related compound in the same program, the absolute stereochemistry has been assigned to be the R enantiomer. M/Z=391.2 [M+H], calc 390.12 for C20H15FN6O2. 1H NMR (400 MHz, DMSO-d6) □ ppm 2.00 (d, J=7.04 Hz, 3 H) 2.31 (s, 3 H) 6.78 (d, J=7.92 Hz, 1 H) 6.95-7.12 (m, 2 H) 7.54 (dd, J=8.22, 4.50 Hz, 1 H) 7.77 (d, J=7.73 Hz, 1 H) 7.85 (d, J=11.54 Hz, 1 H) 8.62 (d, J=9.59 Hz, 1 H) 8.82 (s, 1 H) 8.92 (dd, J=4.55, 1.71 Hz, 1 H).

reactant | (R)-6-(1-(8-fluoro-6-(3-methylisoxazol-5-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)ethyl)-1,6-naphthyridin-5(6H)-one (2R)—N′-(3-fluoro-5-(3-methylisoxazol-5-yl)pyridin-2-yl)-2-(5-oxo-1,6-naphthyridin-6(5H)-yl)propanehydrazide | 4.7 mmol, 1.9 g | FC=1C(=NC=C(C1)C1=CC(=NO1)C)NNC([C@@H](C)N1C(C=2C=CC=NC2C=C1)=O)=O.FC=1C=2N(C=C(C1)C1=CC(=NO1)C)C(=NN2)[C@@H](C)N2C(C=1C=CC=NC1C=C2)=O
reactant | triphenylphosphine | 7.0 mmol, 1.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | THF | 4.7 mmol, 47 ml | C1CCOC1 | C4H8O
reactant | TMS-azide | 7.0 mmol, 0.93 ml | [Si](C)(C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | DEAD | 7.0 mmol, 1.1 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | Heptane | CCCCCCC | C7H16
solvent | EtOH | CCO | C2H6O
product | (R)-6-(1-(8-fluoro-6-(3-methylisoxazol-5-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)ethyl)-1,6-naphthyridin-5(6H)-one | 1.5 g, 60-80% yield | FC=1C=2N(C=C(C1)C1=CC(=NO1)C)C(=NN2)[C@@H](C)N2C(C=1C=CC=NC1C=C2)=O | C20H15FN6O2
